US06399631B1
To a solution of 3-amino-9-ethylcarbazole (8.1 g, 38 mmol), tert-butoxycarbonylamino-acetic acid (6.7 g, 38 mmol), and N,N-dimethylaminopyridine (5.7 g, 46 mmol) in CH2Cl2 (125 mL) was added EDC (5.5 g, 46 mmol). The resultant solution was stirred at room temperature for 2 days, and then diluted with ethyl acetate (500 mL) and washed with aqueous 1 M HCl (2×100 mL), water (100 mL), saturated aqueous NaHCO3 (100 mL), and then brine (100 mL). The organic layer was then dried (Na2SO4), concentrated under reduced pressure, and then flash chromatographed (silica, 1:39 to 1:19 to 1:9 ethyl acetate/CH2Cl2) to afford [(9-ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-carbamic acid tert-butyl ester (9.1 g, 65%) as a brown foam. MS m/z @ 368 (M+1).

reactant | 3-amino-9-ethylcarbazole | 38 mmol, 8.1 g | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
reactant | tert-butoxycarbonylamino-acetic acid | 38 mmol, 6.7 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | EDC | 46 mmol, 5.5 g
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | [(9-ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | 9.1 g, 65% | C(C)(C)(C)OC(NCC(NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)=O)=O | C21H25N3O3
